US07112697B1
(2,4,6-trimethyl-phenyl)-phenyl sulfide (entry 7, Table 1):
The general procedure was used to convert 2,4,6-trimethyliodobenzene and thiophenol to the title product. Purification by flash chromatography (hexane as the eluent) gave the analytically pure product as a clear oil (444 mg, 97% yield). 1H NMR (300 MHz, CDCl3) δ 7.20 (m, 2H; Hb, Hb′), 7.09 (m, 3H; Hc, Hc′, Hd), 6.96 (m, 2H; Ha, Ha′) 2.44 (s, 6H; ortho methyl protons), 2.37 (s, 3H, para methyl protons). 13C NMR (75 MHz, CDCl3) δ 143.67 (C2, C6), 139.21 (C4), 138.35 (C1), 129.29 (C10), 128.81 (C11, C15), 127.20 (C12, C14), 125.39 (C3, C5), 124.41 (C13), 21.67 (C7, C8), 21.10 (C9). Anal. Calcd. for C15H16S: C, 78.90; H, 7.06; S, 14.04; Found C, 78.76; H, 7.23; S, 14.10.

reactant | 2,4,6-trimethyliodobenzene | CC1=C(C(=CC(=C1)C)C)I | C9H11I
reactant | thiophenol | C1(=CC=CC=C1)S | C6H6S
product | (2,4,6-trimethyl-phenyl)-phenyl sulfide | CC1=C(C(=CC(=C1)C)C)SC1=CC=CC=C1 | C15H16S
